US08134007B2
2-Bromo-4-fluoro-1-(2-methoxyethoxy)-benzene
To a solution of 2-bromo-4-fluorophenol (1.2 g, 6.28 mmol) in acetonitrile (10 ml) was added potassium carbonate (2.78 g, 20 mmol) and 2-bromoethyl methyl ether (0.85 ml, 9.5 mmol). The resultant solution was heated to reflux for 16 hours. The reaction mixture was cooled then concentrated in vacuo. tert-Butyl-dimethyl ether (20 ml) and sodium hydroxide (1M aqueous solution) (10 ml) were added and the layers were separated. The organic layer was washed with saturated brine solution (10 ml) then dried over anhydrous Na2SO4 (s), filtered and evaporated in vacuo. Purification by column chromatography on silica gel eluting with heptane to heptane:ethyl acetate (9:1) afforded the title compound as a colourless oil (1.03 g, 66%).

reactant | 2-bromo-4-fluorophenol | 6.28 mmol, 1.2 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 20 mmol, 2.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl methyl ether | 9.5 mmol, 0.85 ml | COCCBr | C3H7BrO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-Bromo-4-fluoro-1-(2-methoxyethoxy)-benzene | 1.03 g, 66% | BrC1=C(C=CC(=C1)F)OCCOC | C9H10BrFO2
